US05098602
Synthesis of 3-fluoro-4-octyloxyacetophenone
After 1.70 g of sodium hydroxide was dissolved in 13 ml of water, 26 ml of ethanol and 5.10 g of 3-fluoro-4-hydroxyacetophenone were added and stirred under heating to form a homogeneous solution, and then 7.41 g of octylbromide was added thereto with stirring under heating. After the heating under reflux for 1 hour, 15 ml of acetone was added and then the heating was continued under reflux for 13 hours. After acetone and ethanol were distilled off, the reaction mixture was poured into 80 ml of water. After the extraction with ether was repeated three times, the organic layers were gathered, washed with water and dried on magnesium sulfate. After magnesium sulfate was filtered off, the filtrate was concentrated and dried under a reduced pressure to obtain 7.45 g of a slightly brown crystal. This crystal was recrystallized with a mixed solvent of methanol and water to obtain 5.07 g (yield: 58%) of a white crystal having a melting point of 39.6°-40.1° C.

reactant | sodium hydroxide | 1.70 g | [OH-].[Na+]
reactant | ethanol | 26 ml | C(C)O | C2H6O
reactant | 3-fluoro-4-hydroxyacetophenone | 5.10 g | CC(=O)C1=CC(=C(C=C1)O)F | C8H7FO2
reactant | octylbromide | 7.41 g | C(CCCCCCC)Br | C8H17Br
reactant | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 13 ml | O | H2O
product | 3-fluoro-4-octyloxyacetophenone | 5.07 g, yield: 58% | FC(CC)C(CCCC)OCC(=O)C1=CC=CC=C1 | C16H23FO2
